US05387601
A mixture of 1-(2-chlorophenyl)methyl-5-hydroxymethyl-2-propylthio-1H-imidazole (0.117 g, 0.393 mmol) in thionyl chloride (1 mL) was refluxed for 2 hours, evaporated in vacuo to an amorphous solid and triturated with ether to provide 1-(2-chlorophenyl)methyl-5-chloromethyl-2-propylthio-1H-imidazole hydrochloride (0.13 g, 94%).

reactant | 1-(2-chlorophenyl)methyl-5-hydroxymethyl-2-propylthio-1H-imidazole | 0.393 mmol, 0.117 g | ClC1=C(C=CC=C1)CN1C(=NC=C1CO)SCCC | C14H17ClN2OS
reactant | thionyl chloride | 1 mL | S(=O)(Cl)Cl | Cl2OS
product | 1-(2-chlorophenyl)methyl-5-chloromethyl-2-propylthio-1H-imidazole hydrochloride | 0.13 g, 94% | Cl.ClC1=C(C=CC=C1)CN1C(=NC=C1CCl)SCCC | InChI=1S/C14H16Cl2N2S.ClH/c1-2-7-19-14-17-9-12(8-15)18(14)10-11-5-3-4-6-13(11)16;/h3-6,9H,2,7-8,10H2,1H3;1H
